US05703096
4(a) 5-{4-[2-(2-Pyridylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 3(a), but using 498 mg of 2-(2-pyridylmethyleneaminooxy)ethanol (prepared as described in Preparation 4), 1.13 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 0.75 ml of tributylphosphine and 693 mg of 1,1'-(azodicarbonyl)dipiperazine, 0.82 g of the title compound was obtained as a foam-like solid.

reactant | 2-(2-pyridylmethyleneaminooxy)ethanol | 498 mg | N1=C(C=CC=C1)C=NOCCO | C8H10N2O2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.13 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.75 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperazine | 693 mg | N(=NC(=O)N1CCNCC1)C(=O)N1CCNCC1 | C10H18N6O2
product | 5-{4-[2-(2-Pyridylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 0.82 g | N1=C(C=CC=C1)C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C37H31N3O4S
